US08895582B2
To a solution of (S)-di-tert-butyl 5-(tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentyl phosphate (4.1 g, 7.95 mmol) in THF (40 mL) was added TBAF (1.0 M in THF, 8.0 mL, 8.0 mmol). The resulting solution was stirred at RT for 1 h. The mixture was quenched with sat. NH4Cl and diluted with EtOAc. The organic layer was washed with sat. NH4Cl (×2) and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-di-tert-butyl 4-(3-(2,3-difluorobenzyl)-1-methylureido)-5-hydroxypentyl phosphate (2.52 g, 61%) as a colorless oil. LRMS (M+H+−2 tBu) m/z 383.0.

reactant | (S)-di-tert-butyl 5-(tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentyl phosphate | 7.95 mmol, 4.1 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCC[C@@H](CO[Si](C)(C)C(C)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)F)C | C28H51F2N2O6PSi
reactant | TBAF | 8.0 mmol, 1.0 M, 8.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-di-tert-butyl 4-(3-(2,3-difluorobenzyl)-1-methylureido)-5-hydroxypentyl phosphate | 2.52 g, 61% | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCC[C@@H](CO)N(C(=O)NCC1=C(C(=CC=C1)F)F)C | C22H37F2N2O6P
